US09193707B2
4. Synthesis of ethyl 2-[4-[(1,3-dioxo-2,3-dihydro-1H-isoindol-2-yl)methyl]phenyl]quinazoline-4-carboxylate
Into a 500-mL round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed 4-[(1,3-dioxo-2,3-dihydro-1H-isoindol-2-yl)methyl]-N-phenylbenzamide (14 g, 39.28 mmol, 1.00 equiv), POCl3 (140 mL) and PCl5 (8.96 g, 43.03 mmol, 1.10 equiv). The resulting solution was stirred for 2 h at 65° C. in an oil bath. The resulting mixture was concentrated under vacuum. The residue was diluted with chlorobenzene (300 mL). To this was added 2-ethoxy-2-oxoacetonitrile (7.7 mL, 2.00 equiv), tetrachlorostannane (15 mL, 1.50 equiv). The resulting solution was allowed to react, with stirring, for an additional 2 h while the temperature was maintained at 120° C. in an oil bath. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate:petroleum ether:tetrahydrofuran (30:6:1). This resulted in 4 g (23%) of ethyl 2-[4-[(1,3-dioxo-2,3-dihydro-1H-isoindol-2-yl)methyl]phenyl]quinazoline-4-carboxylate as a light yellow solid. MS (ESI) m/z 438 ([M+H]+).

reactant | 4-[(1,3-dioxo-2,3-dihydro-1H-isoindol-2-yl)methyl]-N-phenylbenzamide | 39.28 mmol, 14 g, 1.00 equiv | O=C1N(C(C2=CC=CC=C12)=O)CC1=CC=C(C(=O)NC2=CC=CC=C2)C=C1 | C22H16N2O3
reactant | PCl5 | 43.03 mmol, 8.96 g, 1.10 equiv | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 2-ethoxy-2-oxoacetonitrile | 7.7 mL, 2.00 equiv | C(C)OC(C#N)=O | C4H5NO2
reactant | tetrachlorostannane | 15 mL, 1.50 equiv | Cl[Sn](Cl)(Cl)Cl
solvent | POCl3 | 140 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | ethyl 2-[4-[(1,3-dioxo-2,3-dihydro-1H-isoindol-2-yl)methyl]phenyl]quinazoline-4-carboxylate | O=C1N(C(C2=CC=CC=C12)=O)CC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=N1)C(=O)OCC | C26H19N3O4
